US04530930
Preparation of 1-ethyl-6,8-difluoro-1,4-dihydro-7-(1-imidazolyl)-4-oxoquinoline-3-carboxylic acid [I-a]:
To 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (13.6 g) and imidazole (10.2 g) is added dimethylformamide (80 ml), and the mixture is stirred at 100° C. for 1.25 hour. The reaction mixture is cooled to room temperature, and the precipitated crystals are separated by filtration and washed with ethanol. The crude crystals thus obtained are recrystallized from dimethylformaide to give the title compound (7.7 g) as colorless needles. Melting point: 283°-288° C. (decomp. with foam), being gradually colored from about 245° C. IR (KBr, νC=O): near 1720 cm-1.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 13.6 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | imidazole | 10.2 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 1-ethyl-6,8-difluoro-1,4-dihydro-7-(1-imidazolyl)-4-oxoquinoline-3-carboxylic acid | 7.7 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1C=NC=C1)F)=O)C(=O)O | C15H11F2N3O3
